US08536187B2
3-Aminomethyl-N-tert-butyl-5-trifluoromethyl-benzenesulfonamide was synthesized in a manner analogous to 5-aminomethyl-N-tert-butyl-2-fluoro-benzenesulfonamide in Example 3, using 3-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride in place of 5-chloro-2-fluorobenzene-1-sulfonyl chloride.

reactant | 5-aminomethyl-N-tert-butyl-2-fluoro-benzenesulfonamide | NCC=1C=CC(=C(C1)S(=O)(=O)NC(C)(C)C)F | C11H17FN2O2S
reactant | 3-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride | BrC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
product | 3-Aminomethyl-N-tert-butyl-5-trifluoromethyl-benzenesulfonamide | NCC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC(C)(C)C | C12H17F3N2O2S
